US05061726
To a stirred solution of 4-bromo-3-fluorobenzaldehyde (6 g) in triethylamine (60 ml) was added trimethylsilylacetylene (4.6 ml), bis-triphenylphosphinepalladium dichloride (331 mg) and cuprous iodide (130 mg). The resulting mixture was allowed to stir overnight at room temperature under a nitrogen atmosphere. After this time, diethyl ether was added and the mixture was filtered. The filtrate was washed with water and brine before drying over anhydrous magnesium sulphate and evaporation in vacuo. The resulting oil was crystallised from cold hexane to give 3-fluoro-4-trimethylsilylethynylbenzaldehyde as a light brown solid (4 g).

reactant | 4-bromo-3-fluorobenzaldehyde | 6 g | BrC1=C(C=C(C=O)C=C1)F | C7H4BrFO
reactant | trimethylsilylacetylene | 4.6 ml | C[Si](C)(C)C#C | C5H10Si
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | triethylamine | 60 ml | C(C)N(CC)CC | C6H15N
product | 3-fluoro-4-trimethylsilylethynylbenzaldehyde | 4 g | FC=1C=C(C=O)C=CC1C#C[Si](C)(C)C | C12H13FOSi
